US09085530B2
The synthesis of 3-(4-amino-1-oxo-1,3-dihydro-2H-isoindol-2-yl)-2,6-dioxopiperidine
A mixture of 3-(4-chloro-1-oxo-1,3-dihydro-2H-isoindol-2-yl)-2,6-dioxopiperidine (5 g) in ammonium formate (30 ml) was stirred by heating up slowly to reflux and then reacted under ammonia for 6˜8 hours. The reaction mixture concentrated to dryness under reduced pressure. Recrystallization from heated isopropanol gave 3.96 g of target yield. yield: 85%. Purity: 99.17%. mp: 251.6˜253.9° C.

reactant | 3-(4-chloro-1-oxo-1,3-dihydro-2H-isoindol-2-yl)-2,6-dioxopiperidine | 5 g | ClC1=C2CN(C(C2=CC=C1)=O)C1C(NC(CC1)=O)=O | C13H11ClN2O3
reactant | ammonium formate | 30 ml | C(=O)[O-].[NH4+]
product | 3-(4-amino-1-oxo-1,3-dihydro-2H-isoindol-2-yl)-2,6-dioxopiperidine | yield: 85% | NC1=C2CN(C(C2=CC=C1)=O)C1C(NC(CC1)=O)=O | C13H13N3O3
